US09102688B2
2-Chloro-6-methyl-N-quinolin-8-yl-benzenesulfonamide (Example Compound 84)
In a similar fashion using route 14 general procedure 27, using 8-aminoquinoline (100 mg, 0.69 mmol), 2-chloro-6-methylbenzenesulfonyl chloride (230 mg, 1.04 mmol) and DMAP (cat.) gave the title compound (110 mg, 48%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.69 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2-chloro-6-methylbenzenesulfonyl chloride | 1.04 mmol, 230 mg | ClC1=C(C(=CC=C1)C)S(=O)(=O)Cl | C7H6Cl2O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-Chloro-6-methyl-N-quinolin-8-yl-benzenesulfonamide | 110 mg, 48% | ClC1=C(C(=CC=C1)C)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C16H13ClN2O2S
